US06444672B1
95b. 1-[2-(R)-Isopropoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester
Reaction of 0.54 g of (L)-proline methyl ester hydrochloride and 0.89 g of 2-(R)-isopropoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid according to the procedure described for example 91b afforded 1.10 g (88%) of the title compound as a colorless oil. (+)-APCI-MS: 389 (MH+).

reactant | (L)-proline methyl ester hydrochloride | 0.54 g | Cl.COC([C@H]1NCCC1)=O
reactant | 2-(R)-isopropoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid | 0.89 g | C(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)SC(C)C | C12H23NO4S
product | 1-[2-(R)-Isopropoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester | 1.10 g, 88% | COC(=O)[C@H]1N(CCC1)C([C@H](C(C)(C)SC(C)C)NC(=O)OC(C)C)=O | C18H32N2O5S
